* Z:\mnt\design.r\spice\examples\LT3932-1.asc
V1 IN 0 20
R1 N010 0 28.7K
R2 N011 0 45K
C2 N012 P001 250p
C3 0 N001 1µ
C4 N002 N003 100n
L1 N003 OUT 8.2µ
C5 OUT 0 4.7µ
R3 OUT N006 50m
D1 N009 0 LXHL-BW02
M1 N009 N007 N006 N006 IRF7343P
R4 OUT N005 110K
R5 N005 0 10K
C1 N004 0 1µ
C6 N008 0 22n
XU1 N001 N002 N003 OUT N005 OUT N006 N007 NC_01 0 N012 N011 N010 N008 0 NC_02 N004 N004 N004 IN IN LT3932-1
R6 P001 0 10k
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 3m startup
.lib LT3932-1.sub
.backanno
.end
